US06420359B1
d) 8-Bromo-2-chloro-5,11-dihydro-11-ethyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one
A 1 M solution of NaHMDS in THF (167.5 mL, 167.5 mmol) was slowly added to a solution of 5-bromo-2-chloro-N-{2-(ethylamino)-6-choro-3-pyridinyl}-3-pyridinecarboxamide (28.4 g, 72.8 mmol) in pyridine (146 mL) heated to 50° C. The reaction mixture was stirred at 50° C. for 1.5 h. The mixture was then poured into a mixture of water and ice (1 L) and, after 1 h, the resulting suspension was filtered. The solid was washed with water and dried under reduced pressure to give the title compound (23.4 g, 91% yield).

reactant | NaHMDS | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | THF | 167.5 mmol, 167.5 mL | C1CCOC1 | C4H8O
reactant | 5-bromo-2-chloro-N-{2-(ethylamino)-6-choro-3-pyridinyl}-3-pyridinecarboxamide | 72.8 mmol, 28.4 g | BrC=1C=C(C(=NC1)Cl)C(=O)NC=1C(=NC(=CC1)Cl)NCC | C13H11BrCl2N4O
reactant | water | O | H2O
solvent | pyridine | 146 mL | N1=CC=CC=C1 | C5H5N
product | 8-Bromo-2-chloro-5,11-dihydro-11-ethyl-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one | 23.4 g, 91% yield | BrC1=CC2=C(N(C3=C(NC2=O)C=CC(=N3)Cl)CC)N=C1 | C13H10BrClN4O
